US07125901B2
tert-Butyl {2-[4-(2-amino-1,3-thiazol-4-yl)phenyl]ethyl}carbamate (290 mg) was dissolved in dichloromethane (5 mL), then acetic anhydride (0.103 mL), 4-dimethylaminopyridine (10 mg) and pyridine (0.147 mL) were added. The mixture was stirred overnight. The mixture was extracted with chloroform, washed with water and saturated sodium chloride solution, dried over sodium sulfate and concentrated in vacuo. The solid was washed with ethyl ether, and dried in vacuo to give tert-butyl (2-{4-[2-(acetylamino)-1,3-thiazol-4-yl]phenyl}ethyl)carbamate as a white solid (280 mg, 85.3%).

reactant | tert-Butyl {2-[4-(2-amino-1,3-thiazol-4-yl)phenyl]ethyl}carbamate | 290 mg | NC=1SC=C(N1)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C16H21N3O2S
reactant | acetic anhydride | 0.103 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.147 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl (2-{4-[2-(acetylamino)-1,3-thiazol-4-yl]phenyl}ethyl)carbamate | 280 mg, 85.3% | C(C)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C18H23N3O3S
